Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Abnormal CT, Transfer

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with no significant PMHx presents as a transfer from 
___ for abnormal CT chest and one day history of sudden 
onset left forearm tingling.  ___ evening prior to 
presentation, patient reporting feeling body aches with neck and 
upper back pain and noted a red, tender lump on her left neck.  
___ morning presented to Urgent Care for evaluation, was 
prescribed Clindamycin for left neck furuncle.  Patient states 
she was compliant with Clindamycin but still continued to feel 
overall unwell with a headache which was relieved with Tylenol.  
___, she presented to ___ when she noted left arm 
tingling and numbness.  At ___, stroke score 0, CTA 
Head/Neck obtained negative for stenosis but positive for 
paraaortic inflammation.  CT Chest revealed fat stranding and 
soft tissue thickening adjacent to the superior aortic arch and 
origin of the great vessels.  Decision was made to transfer 
patient to ___ for further evaluation of her unusual finding 
of para-aortic mass versus inflammation and unclear whether this 
finding is contributing to her left arm paresthesia. 

In the ___ ED, initial VS were T97.5 HR 84 BP 159/96 RR 16 
95%RA  
Exam notable for full sensation throughout all extremities, no 
anestheias left arm, ___ strength throughout. No pronator drift. 

Labs showed CRP 10.7, WBC 10.1, LDH 357(hemolyzed), BMP with 
HCO3 19, serum/urine tox negative, lactate 1.0
Imaging from OSH uploaded to PACS for second opinion read  
Transfer VS were 97.9 81 154/81 16 97% RA 
No consults.
Decision was made to admit to medicine for further management.
  
On arrival to the floor, patient reports HPI as above.  
Currently reports subtle sensation of left forearm tingling.  
Does report mild headache.     

REVIEW OF SYSTEMS:  
(+) HPI
(-) Fever, chills, night sweats, weight loss, vision changes, 
diplopia, dysarthria, dysphagia, fatigable chewing, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria. 
All other 10-system review negative in detail
 
Past Medical History:
?Gluten Intolerance
HTN
 
Social History:
___
Family History:
Mother with colon cancer diagnosed in her ___, alive.  Father 
with colitis, has colostomy, alive.  Aunt and grandmother with 
breast cancer.  No family history of autoimmune disease or 
lymphoma.
Both daughters have thyroid cancer, diagnosed in their ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS:  98.0 151 / ___ 95 RA  
GENERAL: NAD, sitting in bed comfortably eating dinner  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, +.5cmx.5cm tender erthymatous 
nodule with central punctum with minimal surrounding erythema  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, bilateral UE & ___ strength ___, 
reflexes wnl, decreased senation left palm extending up forewarm 
to elbow, ttp medial epicondyle, decreased interossi strength 
left fingers
SKIN: warm and well perfused, no rashes
LYMPH: no appreciable head, neck, cervical, axillary, or 
inguinal LAD

DISCHARGE PHYSICAL EXAM:
======================
VS: 97.7 116/76 76 18 96 RA
GENERAL: NAD, sitting in bed, alert and interactive
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neckno JVD +.5cmx.5cm scabbed nodule on 
left neck, healing, non tender
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, bilateral UE & ___ strength ___, 
reflexes wnl, bilateral UE equal and normal sensation
SKIN: warm and well perfused, no rashes 
LYMPHNODES: No appreciable head, neck, axillary or inguinal LAD
 
Pertinent Results:
ADMISSION LABS:
=============
___ 07:40AM BLOOD WBC-10.1* RBC-4.80 Hgb-13.7 Hct-42.4 
MCV-88 MCH-28.5 MCHC-32.3 RDW-13.0 RDWSD-42.3 Plt ___
___ 07:40AM BLOOD Neuts-57.7 ___ Monos-7.6 Eos-2.0 
Baso-0.5 Im ___ AbsNeut-5.81 AbsLymp-3.22 AbsMono-0.77 
AbsEos-0.20 AbsBaso-0.05
___ 07:40AM BLOOD ___ PTT-38.1* ___
___ 06:45PM BLOOD ___
___ 07:40AM BLOOD Glucose-101* UreaN-8 Creat-0.6 Na-139 
K-4.9 Cl-105 HCO3-19* AnGap-20
___ 07:40AM BLOOD ALT-15 AST-28 LD(___)-357* AlkPhos-82 
TotBili-0.3
___ 06:45PM BLOOD LD(___)-163 TotBili-0.3
___ 07:40AM BLOOD Lipase-21
___ 07:40AM BLOOD Albumin-4.0 Calcium-9.0 Phos-3.7 Mg-2.0
___ 06:45PM BLOOD Hapto-221*
___ 07:40AM BLOOD CRP-10.7*
___ 07:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:55AM BLOOD Lactate-1.0
___ 07:48AM URINE Color-Straw Appear-Clear Sp ___
___ 07:48AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:48AM URINE UCG-NEGATIVE
___ 07:48AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

INTERVAL LABS:
============
___ 07:00AM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-1+ Macrocy-NORMAL Microcy-OCCASIONAL Polychr-NORMAL 
Burr-1+
___ 07:00AM BLOOD IPT-DONE SEE PATHOLOGY 
___ 07:30AM BLOOD LD(___)-165
___ 07:05AM BLOOD TSH-2.8
___ 07:00AM BLOOD T3-112 Free T4-0.9*
___ 07:30AM BLOOD HCG-<5
___ 03:25PM BLOOD ANCA-NEGATIVE B
___ 07:30AM BLOOD AFP-3.7
___ 03:25PM BLOOD ___
___ 01:20PM BLOOD HIV Ab-Negative
___ 01:20PM BLOOD CMV VL-NOT DETECT
___ 01:20PM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-PND
___ 01:50PM BLOOD SED RATE-28*      

DISCHARGE LABS:
=============
___ 07:00AM BLOOD WBC-7.9 RBC-4.66 Hgb-14.0 Hct-42.0 MCV-90 
MCH-30.0 MCHC-33.3 RDW-13.0 RDWSD-42.4 Plt ___
___ 07:00AM BLOOD Glucose-95 UreaN-17 Creat-0.8 Na-140 
K-4.7 Cl-104 HCO3-21* AnGap-20
___ 07:00AM BLOOD Calcium-9.6 Phos-4.3 Mg-2.0

STUDIES/REPORTS:
==============

___  EXAMINATION:  SECOND OPINION CT TORSO
INDICATION:  ___ year old woman with adenopathy.  Requesting 
reread of CTA-Neck to evaluate for LAD.  Imaging and read 
available through ___.  Assess for LAD.
FINDINGS: 
NECK, THORACIC INLET, AXILLAE, CHEST WALL: Thyroid is moderately 
enlarged and
heterogenous.  Supraclavicular and axillary lymph nodes are 
nonenlarged.  Lumen of all major vessels are normal without 
evidence of dissection or circumferential wall thickening.
UPPER ABDOMEN:  Small hiatal hernia.  The liver is diffusely 
hypotenuse consistent with mild hepatic steatosis.  Visualized 
upper abdomen is otherwise unremarkable.
MEDIASTINUM: Subcentimeter prevascular, paratracheal, and 
subcarinal lymph nodes do not meet CT size criteria for 
enlargement with representative prevascular node measuring 0.5 
cm and upper paratracheal node measuring 0.3 cm.  Within the 
anterior mediastinum is heterogeneous intermediate density soft 
tissue which stretches across the anterior aortic arch 
superiorly,
between the brachiocephalic and left common artery involving the 
mediastinal fat, consistent with perivascular lymphadenopathy at 
thoracic inlet.  Soft tissue does not appear to be associated 
with the vessels.
HILA:  Hilar lymph nodes are not enlarged.
HEART and PERICARDIUM:  The heart is normal in size.  Small 
amount of fluid is seen in the pericardial recess lateral to the 
aortic arch.  No coronary artery calcifications.  The ascending 
aorta is normal in caliber without aneurysmal dilatation.
PLEURA: No pleural effusion, irregular pleural thickening, or 
pleural calcifications.  No pneumothorax.
LUNG:
-PARENCHYMA:  Bilateral subpleural interstitial changes are 
consistent with atelectasis.  Lingular atelectasis is mild.  No 
pulmonary mass, consolidation, or pulmonary nodule.
-AIRWAYS: The airways are patent to the subsegmental level.  No 
bronchiectasis or bronchial wall thickening.
-VESSELS:  Main pulmonary artery is well opacified to the sub 
segmental level without filling defect to suggest pulmonary 
embolism.  Main pulmonary artery is normal in caliber measuring 
2.5 cm.
CHEST CAGE:  Visualized soft tissues are unremarkable.  No focal 
lytic or blastic lesions worrisome for malignancy.  No acute 
fracture.
 
IMPRESSION: 
1.  Heterogeneously enlarged thyroid may represent thyroiditis 
with adjacent reactive lymph nodes in the appropriate clinical 
setting.  Alternatively, perivascular lymphadenopathy at 
thoracic inlet may represent early lymphoproliferative process.
2.  No pulmonary embolism or acute aortic abnormality.  
Specifically, no dissection or evidence of vasculitis.
3.  Mild hepatic steatosis.
 
___ EXAMINATION:  SECOND OPINION CT NEURO 
INDICATION:  ___ year old woman with adenopathy. Requesting 
reread of CTA-Neck to evaluate for LAD. Imaging and read 
available through ___. evaluate for LAD.  Outside exam 
submitted for second opinion.
FINDINGS: 
Venous contrast bolus and dental amalgam streak artifact limits 
evaluation of mediastinum. 
CTA NECK:
The left common carotid artery originates from the right 
brachiocephalic artery.  The carotid and vertebral arteries and 
their major branches otherwise appear normal with no evidence of 
stenosis or occlusion. There is no evidence of internal carotid 
stenosis by NASCET criteria.
OTHER:
The thyroid is heterogeneous with a possible 1 cm ovoid 
hypodense left lobe nodule.  Scattered cervical lymph nodes 
bilaterally are not pathologically enlarged by CT size criteria.
 
IMPRESSION:
1. Venous contrast bolus streak and dental amalgam artifact 
limits evaluation of mediastinum.
2. Scattered cervical lymph nodes not definitely enlarged by CT 
size criteria, as described.
3. Please see concurrently obtained chest CT examination for 
description of thoracic findings.
4.  1 cm left thyroid lobe nodule.  The ___ College of 
Radiology guidelines suggest that in the absence of risk factors 
for thyroid cancer, no further evaluation is recommended.  

___ THYROID ULTRASOUND
Hyperechoic solid 1.1 cm nodule seen at the lower pole of the 
left lobe.  A followup ultrasound in ___ year is suggested to 
assess stability. 

___ PathologyTissue: immunophenotyping-peripheral b 
PENDING 
 
Brief Hospital Course:
___ yo F with no significant PMHx who presented to ___ 
with one day of left forearm and tingling  found to have non 
specific thickening around aorta on CT Chest after CTA Head/Neck 
noted soft tissue density in mediastinum, also with left neck 
furuncle:

# Anterior Mediastinal Soft Tissue Enlargement: Incidental 
finding on CT Chest after CTA Neck was ordered for left arm 
tingling as part of CVA rule out at ___.  CT Chest noted 
possible soft tissue density and fat stranding about the origin 
of the great vessels. Re-read of the CT Chest revealed a 
heterogeneously enlarged thyroid and perivascular 
lymphadenopathy at the thoracic inlet.  Patient without symptoms 
of mediastinal mass effect including no cough, stridor, 
hemoptysis, SOB, dysphagia, horaseness, facial or upper 
extremity swelling due to vascular compression or symptoms of 
horner syndrome. Hematology-Oncology was consulted to comment on 
whether this perivascular LAD could represent an early 
lymphoproliferative process.  Given normal CBC and diff, normal 
LDH and no B symptoms, this was reassuring against lymphoma.  
This anterior mediastinal soft tissue is likely reactive 
lymphadenopathy given patient report of recent MRSA abscess in 
right axilla ___ and current left neck furuncle. Flow 
Cytometry sent and to be followed by ___ Hematology/Oncology.  
Patient is to repeat CT Chest imaging in ___ weeks to for 
evaluation of soft tissue.   

# Heterogenous Thyroid with Nodule:  1 cm ovoid hypodense left 
lobe nodule noted on CT Chest imaging.  Given strong family 
history of thyroid cancer, thyroid ultrasound was obtained 
revealing a hyperechoic solid 1.1 cm at the lower pole of the 
left lobe. A followup ultrasound in ___ year is suggested to 
assess stability.

# Left Neck Furuncle: Treated with doxycycline 100mg BID 
(___), finished treatment inpatient with noted 
improvement.

# Left Forearm Tingling: Likely ulnar n. entrapment given 
patient presented with decreased sensation over left forearm 
extending to left palm, diminished strength left interossi and 
tenderness over left medial epicondyle. Intermittent and 
resolved on day of discharge. 

TRANSITIONAL ISSUES:
====================
- Please repeat thyroid ultrasound in one year. Thyroid 
ultrasound revealing hyperechoic solid 1.1 cm seen at the lower 
pole of the left lobe. A followup ultrasound in ___ year is 
suggested to assess stability. Patient with strong family 
history of thyroid cancer. 
- Per Oncology recommendations, please repeat CT Chest with IV 
contrast in ___ weeks for evaluation of soft tissue. If still 
present, please refer to ___ Oncology for PET scan to evaluate 
for avid lymphoid tissue. If biopsy considered, given location, 
likely needs surgical biopsy as likely not able to reach area 
via bronchoscope. 
- Heme/Onc will follow up on flow cytometry sent ___
- Patient with likely ___ etiology of intermittent left arm 
parasthesias; consistent with left ulnar nerve entrapment. 
Please refer to ___ and OT if needed.

Discharge Medications
**NONE**

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Anterior Mediastinal Soft Tissue Enlargement

Secondary Diagnosis:
Left neck furuncle
Left arm parasthesias 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after imaging noted some 
swollen lymph nodes in your chest.  

You need repeat imaging of your chest in ___ weeks to assess for 
changes in the swollen lymph nodes.  They are likely due to your 
recent armpit and neck infections but it is important to follow 
the size of these lymph nodes. 

You also had an ultrasound of your thyroid which showed a small 
nodule that you will need a repeat ultrasound for in one year. 

Please follow up with your primary care doctor as scheduled.

Please seek immediate medical attention if you develop 
difficulty breathing, chest pain, or high fevers.  

We wish you the best of health moving forward,

Your ___ Care Team

 
Followup Instructions:
___